US08334295B2
3-[3-(2-Hydroxy-ethyl)-5-isopropyl-1-(4-methoxy-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile:
Acetic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-3-(4-methoxy-benzyl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester (88 mg, 0.175 mmol, 1.2 eq.) was dissolved in 1.5 mL MeOH. Potassium carbonate (48 mg, 0.349 mmol, 2 eq.) was added and the reaction mixture was stirred at room temperature for 20 minutes. The reaction mixture was concentrated down and purified (silica gel, 0-10% MeOH/DCM) to give a white powder (76 mg, 94%). LC-MS shows 462.1 (M+1).

reactant | Acetic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-3-(4-methoxy-benzyl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester | 0.175 mmol, 88 mg, 1.2 eq. | C(#N)C=1C=C(C(=O)C2=C(C(N(C(N2CCOC(C)=O)=O)CC2=CC=C(C=C2)OC)=O)C(C)C)C=C(C1)C | C28H29N3O6
reactant | Potassium carbonate | 0.349 mmol, 48 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 1.5 mL | CO | CH4O
product | 3-[3-(2-Hydroxy-ethyl)-5-isopropyl-1-(4-methoxy-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 76 mg, 94% | OCCN1C(N(C(C(=C1C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)=O)CC1=CC=C(C=C1)OC)=O | C26H27N3O5
